US06211199B1
107.5 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(allyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine (0.93 g, 2.86 mmol) and tetrahydrofuran (10 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of sec-butyl lithium (2.64 mL, 1.3 M in hexane, 3.43 mmol). After 30 minutes, add allyl bromide (0.42 g, 3.43 mmol). After the addition is complete, warm to ambient temperature. After 3 hours, add water and extract three times with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with ethyl acetate/hexane 1/4 to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | 2.86 mmol, 0.93 g | COC=1C=C(CN2C(C(CC2)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C21H24FNO4
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sec-butyl lithium | 3.43 mmol, 1.3 M, 2.64 mL | C(C)(CC)[Li]
reactant | allyl bromide | 3.43 mmol, 0.42 g | C(C=C)Br | C3H5Br
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(allyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CC=C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C24H28FNO4
